US05387685
3-[2-Cyano-2-(3,4-dimethoxyphenyl)-2-[(4-methylphenyl)thio]ethyl]benzoic acid
To a cold (-78° C.) solution of 1.86 g of 3,4-dimethoxy-α-[(4-methylphenyl)thio]benzene acetonitrile in 15 mL of tetrahydrofuran is added drop-wise a solution of 2.9 mL of n-butyl lithium (2.2 M) in hexane. This solution is stirred at -78° C. for 35 minutes. A solution of 0.67 g of m-carboxybenzyl bromide in 5 mL of anhydrous tetrahydrofuran is added drop-wise, stirred at -78° C. for 40 minutes and then at room temperature for 15 minutes. The mixture is quenched with water and extracted with ethyl acetate. The ethyl acetate extract is washed with brine, dried and filtered. The filtrate is evaporated in vacuo to yield a yellow oil. This oil is purified by flash chromatography using methylene chloride/methyl alcohol (95:5) to yield 1.15 g of the desired product as a yellow foam.

reactant | 3,4-dimethoxy-α-[(4-methylphenyl)thio]benzene acetonitrile | 1.86 g | COC=1C=C(C=CC1OC)C(C#N)SC1=CC=C(C=C1)C | C17H17NO2S
reactant | n-butyl lithium | 2.2 M, 2.9 mL | C(CCC)[Li]
reactant | m-carboxybenzyl bromide | 0.67 g | C(=O)(O)C=1C=C(CBr)C=CC1 | C8H7BrO2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-[2-Cyano-2-(3,4-dimethoxyphenyl)-2-[(4-methylphenyl)thio]ethyl]benzoic acid | 1.15 g | C(#N)C(CC=1C=C(C(=O)O)C=CC1)(SC1=CC=C(C=C1)C)C1=CC(=C(C=C1)OC)OC | C25H23NO4S
